US04727181
p-Methoxyphenyltrichlorovinyl carbinol (2.3 g, 8.6 millimoles) is added to a 40:60 (V/V) solution of sulfuric acid/methanol which is stirred under nitrogen at reflux (100° C.-106° C.) for 7 minutes. Rapid evolution of hydrogen chloride is noted and ceases after this period. The solution is cooled and poured into 40 ml of water, followed by extraction twice with 20 ml of methylene chloride each time. The organic phase is dried over MgSO4, filtered and rotary evaporated giving z-methyl-2-chloro-3-(4'-methoxyphenyl)propenoate (1.92 g, 8.5 millimoles) in 99 percent yield as a light yellow oil which crystallized on standing (M.P.=68° C.-70° C., M.P.LIT1 =67° C.-70° C.): 'H NMR (CDCl3) δ 7.24 (4H, ab quartet), 7.72 (1H, s), 3.76 (3H, s), 3.68 (3H, s); 13C NMR (CDCl3) δ 164.0, 161.1, 136.7, 132.6, 125.4, 119.0, 113.9, 55.2, 53.0.

reactant | p-Methoxyphenyltrichlorovinyl carbinol | 8.6 millimoles, 2.3 g | COC1=CC=C(C=C1)C(O)C(=C(Cl)Cl)Cl | C10H9Cl3O2
reactant | sulfuric acid methanol | S(O)(O)(=O)=O.CO
reactant | hydrogen chloride | Cl | ClH
solvent | water | 40 ml | O | H2O
product | z-methyl-2-chloro-3-(4'-methoxyphenyl)propenoate | 8.5 millimoles, 1.92 g, 99 percent yield | COC(/C(=C/C1=CC=C(C=C1)OC)/Cl)=O | C11H11ClO3
